US07985862B2
(Step 1) To a solution of 4-chloro-2-methylbenzoic acid (5.0 g) in methanol (40 ml) was added concentrated sulfuric acid at room temperature. The mixture was stirred at 70° C. for 3 hr, neutralized with 1N sodium hydroxide, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate:hexane=1:19→3:7) to give methyl 4-chloro-2-methylbenzoate (5.05 g) as an oil.

reactant | 4-chloro-2-methylbenzoic acid | 5.0 g | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
product | methyl 4-chloro-2-methylbenzoate | 5.05 g | ClC1=CC(=C(C(=O)OC)C=C1)C | C9H9ClO2
